US03966780
11.2 g of 3,6,7-trimethyl-6-octenal is dissolved in 120 ml of ethyl acetate and mixed with 2 g of palladium (10% by wt.) on calcium carbonate and 0.3 of platinum oxide. The mixture is stirred at room temperature (22°C.) under an atmosphere of hydrogen. The course of the hydrogenation is followed by removing samples and subjecting them to gas chromatography. The hydrogenation is terminated when the starting material can no longer be detected by gas chromatography. The product is filtered through Celite diatomaceous earth and concentrated on a rotary evaporator. The resulting oil is purified by chromatography on a 10-fold amount of Kieselgel, using 1% by volume diethyl ether in hexane as the eluant. There is obtained 3,6,7-trimethyl-octan-1-al as a colorless oil; nD25 = 1.4436.

reactant | 3,6,7-trimethyl-6-octenal | 11.2 g | CC(CC=O)CCC(=C(C)C)C | C11H20O
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 2 g | [Pd] | Pd
catalyst | platinum oxide | [Pt]=O
product | 3,6,7-trimethyl-octan-1-al | CC(CC=O)CCC(C(C)C)C | C11H22O
